US06307094B1
Ethyl 4,4,4-trifluoroacetoacetate (350 g), under a blanket of nitrogen gas, was heated to 40° C. and treated with platinum (0.7 g of 5% Pt/C, 0.01% load) and triethylamine (1.5 g, 0.4% load). Hydrogen was charged to a pressure of 5 bars and the mixture agitated at 40° C. for 6h. After filtration to remove the catalyst, 341 g (96% yield) of ethyl 4,4,4-trifluoro-3-hydroxybutyrate was obtained.

reactant | Ethyl 4,4,4-trifluoroacetoacetate | 350 g | FC(C(CC(=O)OCC)=O)(F)F | C6H7F3O3
reactant | Hydrogen | [H][H] | H2
catalyst | platinum | 0.7 g | [Pt] | Pt
solvent | triethylamine | 1.5 g | C(C)N(CC)CC | C6H15N
product | ethyl 4,4,4-trifluoro-3-hydroxybutyrate | 341 g, 96% yield | FC(C(CC(=O)OCC)O)(F)F | C6H9F3O3
